US04559348
7-Benzylamino-5-methyl-1H-pyrazolo[4,3-b]pyridine
7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine (1 g) and benzylamine (30 ml) were heated under reflux for 6 h. The benzylamine was removed in vacuo to yield an oily solid which was digested with 20% hydrochloric acid. The digest was basified with 10% sodium carbonate solution to yield two phases. The solid in the aqueous phase was filtered off to yield the product (0.71 g). The remaining oily phase was extracted with boiling chloroform (3×20 ml) and the extract dried (MgSO4) and evaporated to yield a second crop of product (0.54 g). The combined solids (1.25 g, 91%) were recrystallised from ethanol/petroleum ether to yield the 7-benzylamino-compound as white crystals m.p. 205°-206°.

reactant | 7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine | 1 g | ClC1=C2C(=NC(=C1)C)C=NN2 | C7H6ClN3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzylamine | 30 ml | C(C1=CC=CC=C1)N | C7H9N
product | 7-Benzylamino-5-methyl-1H-pyrazolo[4,3-b]pyridine | 0.71 g | C(C1=CC=CC=C1)NC1=C2C(=NC(=C1)C)C=NN2 | C14H14N4
